US06875769B2
5-(1-Ethyl-propoxy)-7-methyl-1-(2,4,6-trimethyl-phenyl)-1,4-dihydro-2H-3-oxa-1,8-diaza-naphthalene
A mixture of [4-(1-ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-yl]-methanol (79 mg, 0.231 mmol), 37% aqueous formaldehyde (0.1 ml) and p-TsOH (22 mg, 0.116 mmol) in 10 ml of toluene was heated at reflux using a Dean-Stark apparatus for 3 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was separated, dried and concentrated to give 100 mg of the crude material. The crude material was purified through silica gel column chromatography using 2% methanol in chloroform as eluent to give 40 mg (50%) of the title compound as a clear oil. 1H NMR (CDCl3) δ 6.90(s,2H), 6.04(s,1H), 4.87(2 sets of s, 4H), 4.16(m,1H), 2.28(s,3H), 2.19(s,3H), 2.14(s,6H), 1.67(m,4H), 0.94(t,6H) ppm.

reactant | [4-(1-ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-yl]-methanol | 0.231 mmol, 79 mg | C(C)C(CC)OC1=C(C(=NC(=C1)C)NC1=C(C=C(C=C1C)C)C)CO | C21H30N2O2
reactant | formaldehyde | 0.1 ml | C=O | CH2O
reactant | p-TsOH | 0.116 mmol, 22 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(1-Ethyl-propoxy)-7-methyl-1-(2,4,6-trimethyl-phenyl)-1,4-dihydro-2H-3-oxa-1,8-diaza-naphthalene | 40 mg, 50% | C(C)C(CC)OC1=C2COCN(C2=NC(=C1)C)C1=C(C=C(C=C1C)C)C | C22H30N2O2
